US06809093B2
Preparation of 5-phenyl-3-(3,4,5-trimethoxybenzoyl)-oxazolidine-4-carboxylic acid (12)
DL-threo-3-Phenylserine hydrate (5.00 g, 27.6 mmol) and 2N NaOH (13.8 mL, 27.6 mmol) are combined and cooled in an ice-bath. Formaldehyde (2.24 g of a 37% aqueous solution) is added and the reaction mixture is stirred at 0° C. for 21 hours. A solution of 3,4,5-trimethoxybenzoyl chloride (6.36 g, 27.6 mmol) in acetone (20 mL) is added slowly using solid sodium bicarbonate to maintain the pH>7. After stirring for 1 hour the reaction mixture is poured onto water and extracted with ethyl acetate (3×50 mL). The aqueous solution is cooled in an ice-bath, the pH is adjusted to 1 with 1N HCl and the mixture is extracted with methylene chloride (3×100 mL). The combined methylene chloride extracts are washed with water, dried over magnesium sulfate, filtered and concentrated at reduced pressure to afford the desired product as a white solid. CIMS: MH+ 388

reactant | DL-threo-3-Phenylserine hydrate | 27.6 mmol, 5.00 g | C1=CC=C(C=C1)[C@H]([C@@H](C(=O)O)N)O | C9H11NO3
reactant | NaOH | 27.6 mmol, 2N, 13.8 mL | [OH-].[Na+]
reactant | Formaldehyde | C=O | CH2O
reactant | 3,4,5-trimethoxybenzoyl chloride | 27.6 mmol, 6.36 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 5-phenyl-3-(3,4,5-trimethoxybenzoyl)-oxazolidine-4-carboxylic acid | C1(=CC=CC=C1)C1C(N(CO1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C(=O)O | C20H21NO7
